US07238716B2
To a mixture of methyl 2-[2-[[6-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-3-pyridyl]methoxy]-phenyl]acetate (1.05 g), tetrahydrofuran (5 mL) and methanol (5 mL) was added a 1N aqueous sodium hydroxide solution (5 mL) and the mixture was stirred at 50° C. for 2 hrs. 1N Hydrochloric acid (5 mL) and water were added to the reaction mixture, and the precipitated crystals were collected by filtration and dried with air to give crystals (0.91 g, 88%) of 2-[2-[[6-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-3-pyridyl]methoxy]phenyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 173-174° C.

reactant | methyl 2-[2-[[6-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-3-pyridyl]methoxy]-phenyl]acetate | 1.05 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=C(C=CC=C1)CC(=O)OC | C26H24N2O4S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-[2-[[6-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-3-pyridyl]methoxy]phenyl]acetic acid | 0.91 g, 88% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=C(C=CC=C1)CC(=O)O | C25H22N2O4S
